US03971819
Ethyl 3-benzylamino-5-sulphamyl-4-(m-trifluoromethylanilino)-benzoate
By substituting 3-amino-5-sulphamyl-4-(m-trifluoromethylanilino)-benzoic acid (1.8 g) for the 3-amino-5-sulphamyl-4-(m-trifluoromethylphenoxy)-benzoic acid and increasing the amount of ethanol to 50 ml, the above compound was obtained with a melting point of 189°-190°C.

reactant | 3-amino-5-sulphamyl-4-(m-trifluoromethylanilino)-benzoic acid | 1.8 g | NC=1C=C(C(=O)O)C=C(C1NC1=CC(=CC=C1)C(F)(F)F)S(N)(=O)=O | C14H12F3N3O4S
reactant | 3-amino-5-sulphamyl-4-(m-trifluoromethylphenoxy)-benzoic acid | NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)C(F)(F)F)S(N)(=O)=O | C14H11F3N2O5S
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 3-benzylamino-5-sulphamyl-4-(m-trifluoromethylanilino)-benzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1NC1=CC(=CC=C1)C(F)(F)F)S(N)(=O)=O | C23H22F3N3O4S
